US07217724B2
tert-Butyl (1R)-2-(7-hydroxy-1H-indol-3-yl)-1-methylethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)carbamate
To a solution of tert-butyl (1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methylethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl) oxy) ethyl)carbamate (2.5 g, 4.06 mmol) in methanol (50 mL) are added a phosphate standard buffer (pH 6.86, 2.5 mL) and a 10% palladium on carbon (50% wet, 2.5 g), and the mixture is stirred at room temperature for 1.5 hour under hydrogen atmosphere. The reaction solution is filtered through celite, and the filtrate is evaporated under reduced pressure to remove the solvent. To the residue are added water and ethyl acetate, and the organic layer is washed with a saturated brine, and dried over anhydrous sodium sulfate. The solvent is evaporated, and the obtained crude product is purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1→3:2) to give the title compound (1.84 g, yield: 87%).

reactant | tert-butyl (1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methylethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl) oxy) ethyl)carbamate | 4.06 mmol, 2.5 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H](O[Si](CC)(CC)CC)C=1C=NC=CC1 | C36H49N3O4Si
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | tert-Butyl (1R)-2-(7-hydroxy-1H-indol-3-yl)-1-methylethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)carbamate | 1.84 g, yield: 87% | OC=1C=CC=C2C(=CNC12)C[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H](O[Si](CC)(CC)CC)C=1C=NC=CC1 | C29H43N3O4Si
